US07790752B2
b) 2-{6-Chloro-3-[(3-methyl-4-oxo-1-phenyl-1,3,8-triazaspiro[4.5]dec-8-yl)carbonyl]-1H-indol-1-yl}-N-[2-(dimethylamino)ethyl]acetamide
A solution of [6-chloro-3-(3-methyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]decane-8-carbonyl)-indol-1-yl]-acetic acid in DMF was treated sequentially with 1 eq. of O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate, 1 eq. of N,N-diisopropylethylamine and 1 eq. of N,N-dimethylethylenediamine. The mixture was shaken at room temperature for 12 h, concentrated and purified by prep. HPLC to give the title compound.

reactant | [6-chloro-3-(3-methyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]decane-8-carbonyl)-indol-1-yl]-acetic acid | ClC1=CC=C2C(=CN(C2=C1)CC(=O)O)C(=O)N1CCC2(C(N(CN2C2=CC=CC=C2)C)=O)CC1 | C25H25ClN4O4
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1 eq. | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 1 eq. | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylethylenediamine | 1 eq. | CN(CCN)C | C4H12N2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-{6-Chloro-3-[(3-methyl-4-oxo-1-phenyl-1,3,8-triazaspiro[4.5]dec-8-yl)carbonyl]-1H-indol-1-yl}-N-[2-(dimethylamino)ethyl]acetamide | ClC1=CC=C2C(=CN(C2=C1)CC(=O)NCCN(C)C)C(=O)N1CCC2(C(N(CN2C2=CC=CC=C2)C)=O)CC1 | C29H35ClN6O3
